US07491714B2
A mixture of [2-(3,5-difluoro-phenoxy)-ethyl]-methyl-amine (0.63 g, 3.4 mmol), 2-(3-bromo-propyl)-isoindole-1,3-dione (1.03 g, 3.8 mmol), 30% potassium fluoride on Celite® (1.35 g, 7 mmol) and acetonitrile (30 ml) was stirred for 20 hours at 50° C. The solvent was concentrated and the residue was dissolved in ethyl acetate. The Celite was filtered off, the solution was washed with water, then the organic phase was dried over magnesium sulfate and concentrated. The residue was chromatographed on silicagel eluting with methylene chloride-methanol (97-3) to give 2-(3-{[2-(3,5-difluoro-phenoxy)-ethyl]-methyl-amino}-propyl)-isoindole-1,3-dione (1 g, 78.6%).

reactant | [2-(3,5-difluoro-phenoxy)-ethyl]-methyl-amine | 3.4 mmol, 0.63 g | FC=1C=C(OCCNC)C=C(C1)F | C9H11F2NO
reactant | 2-(3-bromo-propyl)-isoindole-1,3-dione | 3.8 mmol, 1.03 g | BrCCCN1C(C2=CC=CC=C2C1=O)=O | C11H10BrNO2
reactant | potassium fluoride | [F-].[K+]
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 2-(3-{[2-(3,5-difluoro-phenoxy)-ethyl]-methyl-amino}-propyl)-isoindole-1,3-dione | 1 g, 78.6% | FC=1C=C(OCCN(CCCN2C(C3=CC=CC=C3C2=O)=O)C)C=C(C1)F | C20H20F2N2O3
